US06525067B1
Methyl-carbamic acid 2,2,2-trifluoro-1-[7-methyl-1-(2,4,6-trimethyl-phenyl)-1,4-dihydro-2H-pyrimido[4,5-d][1,3]oxazin-5-yl]-ethyl ester
A mixture of 2,2,2-trifluoro-1-[7-methyl-1-(2,4,6-trimethyl-phenyl)-1,4-dihydro-2H-pyrimido[4,5-d][1,3]oxazin-5yl]-ethanol (26 mg), methyl isocyanate (0.12 ml), dimethylaminopyridine (27 mg) in dichloromethane (2 ml) was heated at reflux for 2 hrs. The mixture was quenched with water and extracted with chloroform. The organic layer was separated, dried and concentrated to give the crude material which was purified by silica gel column chromatography using chloroform as eluent to give 21 mg of the title compound as a white solid.

reactant | 2,2,2-trifluoro-1-[7-methyl-1-(2,4,6-trimethyl-phenyl)-1,4-dihydro-2H-pyrimido[4,5-d][1,3]oxazin-5yl]-ethanol | 26 mg | FC(C(O)C1=NC(=NC=2N(COCC21)C2=C(C=C(C=C2C)C)C)C)(F)F | C18H20F3N3O2
reactant | methyl isocyanate | 0.12 ml | CN=C=O | C2H3NO
reactant | dimethylaminopyridine | 27 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Methyl-carbamic acid 2,2,2-trifluoro-1-[7-methyl-1-(2,4,6-trimethyl-phenyl)-1,4-dihydro-2H-pyrimido[4,5-d][1,3]oxazin-5-yl]-ethyl ester | 21 mg | FC(C(C1=NC(=NC=2N(COCC21)C2=C(C=C(C=C2C)C)C)C)OC(NC)=O)(F)F | C20H23F3N4O3
